US07368578B2
A mixture of 2-amino-2-thioxoethyl benzoate (7.6 g), 1,3-dichloro-2-propanone (7.6 g) and ethanol (100 mL) was heated under reflux for 4 hrs. The solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:5, v/v) to give (4-chloromethyl-1,3-thiazol-2-yl)methyl benzoate as a brown oil (7.3 g, yield 45%).

reactant | 2-amino-2-thioxoethyl benzoate | 7.6 g | C(C1=CC=CC=C1)(=O)OCC(=S)N | C9H9NO2S
reactant | 1,3-dichloro-2-propanone | 7.6 g | ClCC(CCl)=O | C3H4Cl2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (4-chloromethyl-1,3-thiazol-2-yl)methyl benzoate | 7.3 g, yield 45% | C(C1=CC=CC=C1)(=O)OCC=1SC=C(N1)CCl | C12H10ClNO2S
